US04353900
Butyl lithium (44 ml of 1.6 M in hexane) was added slowly to a stirred suspension of 27 g of (n-propyl)triphenylphosphonium bromide in 350 ml of tetrahydrofuran and the resulting solution was refluxed for 1 hour. The mixture was cooled in an ice bath and 18 g of N-carbobenzyloxy-4-piperidone was added. After stirring at room temperature of 0.5 hour, the solution was refluxed for 2 hours. The cooled mixture was concentrated under reduced pressure, partitioned between ether and water, and the ether layer was dried (sodium sulfate) and evaporated. The residue was filtered through silica gel with 20% ethyl acetate-hexane to give 10 g of 1-carbobenzoxy-4-(1-butylidene)piperidine as a colorless oil.

reactant | Butyl lithium | 1.6 M, 44 ml | C(CCC)[Li]
reactant | (n-propyl)triphenylphosphonium bromide | 27 g | [Br-].C(CC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | N-carbobenzyloxy-4-piperidone | 18 g | C(=O)(OCC1=CC=CC=C1)N1CCC(CC1)=O | C13H15NO3
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | 1-carbobenzoxy-4-(1-butylidene)piperidine | 10 g | C(=O)(OCC1=CC=CC=C1)N1CCC(CC1)=CCCC | C17H23NO2
